US06133271
With the procedure of Example 477, the reaction of 3-cyanopyridine and 2-amino-5-nitro-3-ethoxycarbonyl-thiophene, and the subsequent reaction with POCl3 yields 4-chloro-2-(pyridin-3-yl)-6-nitro-thieno-[2,3-d]-pyrimidine

reactant | 3-cyanopyridine | C(#N)C=1C=NC=CC1 | C6H4N2
reactant | 2-amino-5-nitro-3-ethoxycarbonyl-thiophene | NC=1SC(=CC1C(=O)OCC)[N+](=O)[O-] | C7H8N2O4S
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-(pyridin-3-yl)-6-nitro-thieno-[2,3-d]-pyrimidine | ClC=1C2=C(N=C(N1)C=1C=NC=CC1)SC(=C2)[N+](=O)[O-] | C11H5ClN4O2S
